** Test time trace: OFF->SET->OFF->COPY->HOLD->OFF->RESET->OFF->COPY->HOLD->OFF **
Vrow Vrow gnd   PWLZ(0s 0   1s 0    1.1s Vrset  2s Vrset    2.1s 0    3s 0    3.1s Vrcopy   4s Vrcopy   4.1s Vrhold   5s Vrhold   5.1s 0    6s 0    6.1s Vrrst    7s Vrrst    7.1s 0    8s 0   8.1s Vrcopy  9s Vrcopy  9.1s Vrhold  10s Vrhold  10.1s 0 11s 0)
Vcol Vcol gnd   PWLZ(0s 0   1s 0    1.1s Vcset  2s Vcset    2.1s 0    3s 0    3.1s Vccopy   4s z        4.1s z        5s z        5.1s 0    6s 0    6.1s Vcrst    7s Vcrst    7.1s 0    8s 0   8.1s Vccopy  9s z     zz  9.1s z       10s z       10.1s 0 11s 0)
